US09233098B2
5. Preparation of 2-[1-[4-(2-naphthamido)benzyl]-2-methyl-1H-indol-3-yl]acetic acid
Into a dry reaction vessel, methyl 2-[1-[4-(2-naphthamido)benzyl]-2-methyl-1H-indol-3-yl]acetate (150 mg, 0.324 mmol), lithium hydroxide monohydrate (55 mg, 1.31 mmol), 3 mL tetrahydrofuran, 3 mL water were weighed, and stirred at room temperature for 2 h. The reaction was monitored to be complete by TLC. The solvent was rotate evaporated. It was adjusted to pH=3-4 with 2 N HCl solution. It was extracted by ethyl ester, rotate evaporated to dryness to obtain the product as a white solid 80 mg. After recrystallization by ethyl acetate, a pure product 51 mg was obtained, at a yield of 35.2%.

reactant | methyl 2-[1-[4-(2-naphthamido)benzyl]-2-methyl-1H-indol-3-yl]acetate | 0.324 mmol, 150 mg | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CN2C(=C(C3=CC=CC=C23)CC(=O)OC)C)C=C1 | C30H26N2O3
reactant | lithium hydroxide monohydrate | 1.31 mmol, 55 mg | O.[OH-].[Li+]
reactant | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | 3 mL | O | H2O
product | 2-[1-[4-(2-naphthamido)benzyl]-2-methyl-1H-indol-3-yl]acetic acid | 80 mg | C1=C(C=CC2=CC=CC=C12)C(=O)NC1=CC=C(CN2C(=C(C3=CC=CC=C23)CC(=O)O)C)C=C1 | C29H24N2O3
